US05019583
Trans-3-methyl-4-[(1-oxopropyl)phenylamino]-piperidine
A mixture of trans-N-benzyloxycarbonyl-3-methyl-4-[(1-oxopropyl)phenylamino]-piperidine (1.5 g, 3.94 mmol), 10% Pd-C (200 mg), methanol (20 ml), and acetic acid (20 ml) is hydrogenated at 50 psi for 24 hours. The resultant suspension is filtered through a bed of Celite and the filtrate concentrated. The residue is diluted with ethyl acetate (50 ml), basified to pH 11 with 2N NaOH and shaken. The organic layer is separated, dried over magnesium sulfate, and concentrated to trans-3-methyl-4-[(1-oxopropyl)-phenylamino]-piperidine: 720 mg; 96%.

reactant | trans-N-benzyloxycarbonyl-3-methyl-4-[(1-oxopropyl)phenylamino]-piperidine | 3.94 mmol, 1.5 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](CC1)N(C1=CC=CC=C1)C(CC)=O)C | C23H28N2O3
reactant | methanol | 20 ml | CO | CH4O
catalyst | Pd-C | 200 mg | [Pd] | Pd
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | Trans-3-methyl-4-[(1-oxopropyl)phenylamino]-piperidine | C[C@@H]1CNCC[C@H]1N(C1=CC=CC=C1)C(CC)=O | C15H22N2O
